US05856311
A solution of 5 g of 2,4,5-trimethylthiazol in 10 cm3 of anhydrous THF is added at -78° C. to a solution of 4.6 g of lithium isopropylamide, prepared in situ by adding 27 cm3 of n-butyllithium (1.6 M solution in hexane) to a solution of 4.35 g of diisopropylamine in 60 cm3 of anhydrous THF. After about 60 minutes a solution of 5.26 g of benzonitrile in 50 cm3 of anhydrous THF is slowly added dropwise, the temperature being maintained at -78° C. for a further 90 minutes. The temperature is left to rise slowly and the mixture is then left under stirring for a night. The solvent is evaporated, and ethyl acetate is added. The organic phase is washed with water, dried on sodium sulphate and is then evaporated. The raw product is purified on silica gel, using a mixture of ethyl acetate/hexane as eluant in a ratio of 3/7. 6.8 g of 1-amino-1-phenyl-2-(4,5-dimethylthiazol-2-yl)ethylene are obtained (yield 76%).

reactant | 2,4,5-trimethylthiazol | 5 g | CC=1SC(=C(N1)C)C | C6H9NS
reactant | lithium isopropylamide | 4.6 g | C(C)(C)[NH-].[Li+]
reactant | n-butyllithium | 1.6 M, 27 cm3 | C(CCC)[Li]
reactant | diisopropylamine | 4.35 g | C(C)(C)NC(C)C | C6H15N
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | THF | 60 cm3 | C1CCOC1 | C4H8O
solvent | THF | 50 cm3 | C1CCOC1 | C4H8O
solvent | benzonitrile | 5.26 g | C(C1=CC=CC=C1)#N | C7H5N
product | 1-amino-1-phenyl-2-(4,5-dimethylthiazol-2-yl)ethylene | 6.8 g, yield 76% | NC(=CC=1SC(=C(N1)C)C)C1=CC=CC=C1 | C13H14N2S
